US04016267
Preparation of N4 -Acetyl-N1 -(1-cyclopropyl-1,2-dihydro-2-oxo-4-pyrimidinyl)-sulfanilamide
A mixture of 10.6 g. of 1-cyclopropylcytosine, 16.4 g. of N-acetylsulfanilyl chloride and 47 ml. of pyridine was stirred overnight after momentary cooling to maintain the reaction below 30°. The mixture was poured into 700 ml. of water, and after filtration by gravity, the solution was strongly acidified by addition of 6N hydrochloric acid. Gradual crystallization occurred overnight in a refrigerator before filtering the N4 -acetyl-N1 -(1-cyclopropyl-1,2-dihydro-2-oxo-4-pyrimidinyl)-sulfanilamide; yield 10.7 g., m.p. 139°-143°.

reactant | 1-cyclopropylcytosine | C1(CC1)N1C(=O)N=C(N)C=C1 | C7H9N3O
reactant | N-acetylsulfanilyl chloride | C(C)(=O)NC1=CC=C(S(=O)(=O)Cl)C=C1 | C8H8ClNO3S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N4 -Acetyl-N1 -(1-cyclopropyl-1,2-dihydro-2-oxo-4-pyrimidinyl)-sulfanilamide | C(C)(=O)NC1=CC=C(S(=O)(=O)NC2=NC(N(C=C2)C2CC2)=O)C=C1 | C15H16N4O4S
